US07576115B2
Synthesis of 4-(5-chloro-2-{[(2-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]-ethylidene}-hydrazino)carbonothioyl]amino}-phenoxy)-butyric acid
To a suspension of ethyl 4-(5-chloro-2-{[(2-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonothioyl]amino}-phenoxy)butyrate (74 mg, 0.12 mmol) in ethanol (3.0 mL) was added 1 M aqueous sodium hydroxide (370 μL, 0.37 mmol). After the reaction mixture was stirred at room temperature for 19 hours, 1 M hydrochloric acid (370 μL, 0.37 mmol) was added then the precipitated solid was collected by filtration, washed with chloroform and dried by means of a vacuum pump to give the desired product as a yellow solid (yield 59%).

reactant | ethyl 4-(5-chloro-2-{[(2-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonothioyl]amino}-phenoxy)butyrate | 0.12 mmol, 74 mg | ClC=1C=CC(=C(OCCCC(=O)OCC)C1)NC(=S)NN=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C26H27ClF3N5O4S
reactant | sodium hydroxide | 0.37 mmol, 1 M, 370 μL | [OH-].[Na+]
reactant | hydrochloric acid | 0.37 mmol, 1 M, 370 μL | Cl | ClH
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 4-(5-chloro-2-{[(2-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]-ethylidene}-hydrazino)carbonothioyl]amino}-phenoxy)-butyric acid | yield 59% | ClC=1C=CC(=C(OCCCC(=O)O)C1)NC(=S)NN=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C24H23ClF3N5O4S
